US04367278
(1) (Synthesis of 3-cyano-1-(2-cyanoethyl)-5-pyrazolone
13.5 g of 3-carbamoyl-1-(2-cyanoethyl)-5-pyrazolone and 120 ml of acetonitrile were put into a 200 ml 3-neck flask. A mixture solution of 27 ml of phosphorus oxychloride and 76 ml of N,N-dimethylformamide was added dropwise at a temperature below 15° C. After completion of the addition, the reaction mixture was poured into ice water and extracted with ethyl acetate. The extract was concentrated and the crystals (white color) formed were collected by filtration. Yield: 7.8 g (64.2%), Melting Point: 162° to 164° C.

reactant | 3-carbamoyl-1-(2-cyanoethyl)-5-pyrazolone | 13.5 g | C(N)(=O)C=1NN(C(C1)=O)CCC#N | C7H8N4O2
reactant | acetonitrile | 120 ml | C(C)#N | C2H3N
reactant | phosphorus oxychloride | 27 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | N,N-dimethylformamide | 76 ml | CN(C=O)C | C3H7NO
product | 3-cyano-1-(2-cyanoethyl)-5-pyrazolone | C(#N)C=1NN(C(C1)=O)CCC#N | C7H6N4O
